US07696234B2
{4-[4-(Azetidine-1-carbonyl)-benzyloxy]-phenyl}-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure D from 4-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzoic acid lithium salt and azetidine. MS (ES+) 448.2

reactant | 4-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzoic acid lithium salt | [Li+].N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(OCC2=CC=C(C(=O)[O-])C=C2)C=C1
reactant | azetidine | N1CCC1 | C3H7N
product | {4-[4-(Azetidine-1-carbonyl)-benzyloxy]-phenyl}-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1(CCC1)C(=O)C1=CC=C(COC2=CC=C(C=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2)C=C1 | C27H33N3O3
